US05652271
A solution of bromine (6.1 ml) in dichloromethane (50 ml) was added dropwise over 3 hours at 10°-15° C. under nitrogen to a stirred solution of 1-[1-(3,4-dichlorophenyl)cyclopentyl]ethanone (31.9 g) in a mixture of methanol (60 ml) and dichloromethane (10 ml), then the mixture was stirred at ambient temperature for 2.5 hours and poured into an excess of ice-water. The aqueous layer was separated and washed with dichloromethane 3×100 ml), then the combined organic solutions were washed with saturated aqueous sodium hydrogencarbonate solution (2×100 ml) and water (100 ml), dried over calcium chloride, and the solvent removed in vacuo. The residue was distilled in vacuo, and the fraction of b.p. >174° C./1.3 mbar was collected and redistilled. Material of b.p. >182° C./2.6 mbar in this second distillation was collected and redistilled to give 2-bromo-1-[1-(3,4-dichlorophenyl)cyclopentyl]ethanone as a pale yellow oil (11.8 g), b.p. 156°-162° C./0.4 mbar.

reactant | bromine | 6.1 ml | BrBr | Br2
reactant | 1-[1-(3,4-dichlorophenyl)cyclopentyl]ethanone | 31.9 g | ClC=1C=C(C=CC1Cl)C1(CCCC1)C(C)=O | C13H14Cl2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | methanol | 60 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-bromo-1-[1-(3,4-dichlorophenyl)cyclopentyl]ethanone | 11.8 g | BrCC(=O)C1(CCCC1)C1=CC(=C(C=C1)Cl)Cl | C13H13BrCl2O
